US06197959B1
In analogy to the procedure described in example 4(b), the (3R,4R)-3-[1-(2-methanesulfonylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester was deprotected with HCl/methanol to yield the (3R,4R)-3-[1-(2-methanesulfonylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine as a light yellow oil; MS: 638 (M+H)+.

reactant | (3R,4R)-3-[1-(2-methanesulfonylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCN(C2=C1)CCNS(=O)(=O)C | C40H55N3O8S
reactant | HCl methanol | Cl.CO
product | (3R,4R)-3-[1-(2-methanesulfonylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine | CS(=O)(=O)NCCN1CCCC2=CC=C(C=C12)CO[C@H]1CNCC[C@@H]1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC | C35H47N3O6S
